US08026236B2
A: 2-(4-Bromo-2-(trifluoromethyl)phenoxy)-ethanol
2-Bromoethanol (23.3 g) was added to a mixture of 4-bromo-2-(trifluoromethyl)-phenol (30 g) and potassium carbonate (34.4 g) in acetonitrile (200 ml). The above mixture was refluxed for 8 hours then another portion of 2-bromoethanol (8 g) was added and the reflux continued for another 6 hours. After diluting with ethyl acetate (500 ml), the mixture was washed with water (300 ml) then 0.1 M sodium hydroxide (200 ml). Organic layer was dried over magnesium sulphate, solvent removed under reduced pressure, the residue was taken into heptane by heat, 2-(4-bromo-2-(trifluoromethyl)-phenoxy)-ethanol crystalised and collected by filtration (17 g).

reactant | 2-Bromoethanol | 23.3 g | BrCCO | C2H5BrO
reactant | 4-bromo-2-(trifluoromethyl)-phenol | 30 g | BrC1=CC(=C(C=C1)O)C(F)(F)F | C7H4BrF3O
reactant | potassium carbonate | 34.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 8 g | BrCCO | C2H5BrO
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-Bromo-2-(trifluoromethyl)phenoxy)-ethanol | BrC1=CC(=C(OCCO)C=C1)C(F)(F)F | C9H8BrF3O2
